US03984415
To a solution of 1-(m-nitrophenyl)pyrido[2,3-d]pyrimidine-2,4(1H,3H)-dione and 30 ml of dry dimethlformamide was dimethylformamide 0.6 g of about 50 % sodium hydride, and stirring was performed for 30 minutes. To this was added dropwise 2.3 g of methyl fluorosulfate and the mixture was reacted for one hour at room temperature. Then the mixture was neutralized with 5 % sodium carbonate solution and concentrated under reduced pressure to leave a residue, to which was added water to yield a crude product. This products was recrystallized from acetone to give 2.6 g of 1-(m-nitrophenyl)-3-methylpyrido[2,3-d]pyrimidine-2,4(1H,3H)-dione as pale yellow prisms, melting at 234°-235°C.

reactant | 1-(m-nitrophenyl)pyrido[2,3-d]pyrimidine-2,4(1H,3H)-dione | [N+](=O)([O-])C=1C=C(C=CC1)N1C(NC(C2=C1N=CC=C2)=O)=O | C13H8N4O4
reactant | sodium hydride | [H-].[Na+]
reactant | methyl fluorosulfate | 2.3 g | S(=O)(=O)(OC)F | CH3FO3S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
solvent | dimethylformamide | 0.6 g | CN(C=O)C | C3H7NO
solvent | dimethlformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1-(m-nitrophenyl)-3-methylpyrido[2,3-d]pyrimidine-2,4(1H,3H)-dione | 2.6 g | [N+](=O)([O-])C=1C=C(C=CC1)N1C(N(C(C2=C1N=CC=C2)=O)C)=O | C14H10N4O4
